US05470870
Mix 4-fluoro-2-bromo-6-nitroaniline (15.5 g, 66.0 mmol) and 50% sulfuric acid (200 mL) and cool to 0°-5° C. Add, by dropwise addition, a solution of sodium nitrite (6.0 g, 86.4 mmol) in water (50 mL). Stir for 30 minutes and add solid potassium iodide (29 g, 173 mmol). Take up the product in ethyl acetate (300 mL), wash with saturated sodium hydrogen carbonate (2×200 mL), saturated sodium metabisulfite (2×200 mL) and water (200 mL). Dry (MgSO4), evaporate the solvent in vacuo and purify by silica gel chromatography to give 1-iodo-2-nitro-4-fluoro-6-bromobenzene as a yellow crystalline solid (17.81 g, 76%); mp 75°-76° C.

reactant | 4-fluoro-2-bromo-6-nitroaniline | 66.0 mmol, 15.5 g | FC1=CC(=C(N)C(=C1)[N+](=O)[O-])Br | C6H4BrFN2O2
reactant | sulfuric acid | 200 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 86.4 mmol, 6.0 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 173 mmol, 29 g | [I-].[K+]
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1-iodo-2-nitro-4-fluoro-6-bromobenzene | 17.81 g, 76% | IC1=C(C=C(C=C1Br)F)[N+](=O)[O-] | C6H2BrFINO2
